US09079887B2
To a solution of (2S,5S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-5-methylpyrrolidine-1-carboxylate (0.50 g, 1.23 mmol) in a mixture of CH2CL2 (10 mL) and methanol (1.0 mL) was added HCl (4M in dioxane, 6.00 mL, 24 mmol). The solution was stirred at 40° C. for 1 h, cooled to room temperature and concentrated to dryness. The crude solid was suspended in CH2CL2 (10 mL), followed by the addition of (S)-2-(methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetic acid (0.298 g, 1.37 mmol), HATU (0.562 g, 1.48 mmol) and DIPEA (0.60 mL, 3.44 mmol). The resulting solution was stirred at room temperature for 18 h. The solution was diluted with CH2CL2 and washed with a mixture of sodium bicarbonate (aqueous, sat) and brine. The aqueous layer was back-extracted with CH2CL2. The combined organic layers were dried over Na2SO4 and concentrated to provide a crude oil. Purification by column chromatography (SiO2, 10-100% EtOAc (10% MeOH)/Hexanes) provided methyl (S)-2-((2S,5S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-5-methylpyrrolidin-1-yl)-2-oxo-1-(tetrahydro-2H-pyran-4-yl)ethylcarbamate (0.614 g, 99%). MS (ESI) m/z 505.844 [M+H]+.

reactant | (2S,5S)-tert-butyl 2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-5-methylpyrrolidine-1-carboxylate | 1.23 mmol, 0.50 g | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@H](CC1)C)C(=O)OC(C)(C)C | C19H24BrN3O2
reactant | HCl | 24 mmol, 4M, 6.00 mL | Cl | ClH
reactant | (S)-2-(methoxycarbonylamino)-2-(tetrahydro-2H-pyran-4-yl)acetic acid | 1.37 mmol, 0.298 g | COC(=O)N[C@H](C(=O)O)C1CCOCC1 | C9H15NO5
reactant | HATU | 1.48 mmol, 0.562 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 3.44 mmol, 0.60 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | methanol | 1.0 mL | CO | CH4O
product | methyl (S)-2-((2S,5S)-2-(5-(4-bromophenyl)-1H-imidazol-2-yl)-5-methylpyrrolidin-1-yl)-2-oxo-1-(tetrahydro-2H-pyran-4-yl)ethylcarbamate | 0.614 g, 99% | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N([C@H](CC1)C)C([C@H](C1CCOCC1)NC(OC)=O)=O | C23H29BrN4O4
